US06410550B1
B) 5-Iodo-1,2,3,4-tetrahydro-1,4-methano-naphthalene-2,3-diol
5-Iodo-1,4-dihydro-1,4-methano-naphthalene (20 g) and N-methyl morpholine N-oxide (17.61 g, 130 mmol) were stirred in acetone (90 mL) and H2O (13 mL). To this was added a solution of OsO4 (0.2 mL, 2.5% wt, solution in t-BuOH, 0.02 mmol). After 144 hours, florisil (5 g) and saturated aqueous NaHSO3 solution (3 mL) were added and stirred for ½ hour. The mixture was filtered through a Celite pad and the filtrate concentrated to produce an oil which was purified by chromatography on Silica gel eluting with a gradient of hexanes to 100% EtOAc to provide a yellow solid (13.73 g). APCl MS m/e 301.1 [(M−1)+].

reactant | 5-Iodo-1,4-dihydro-1,4-methano-naphthalene | 20 g | IC1=C2C3C=CC(C2=CC=C1)C3 | C11H9I
reactant | N-methyl morpholine N-oxide | 130 mmol, 17.61 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | florisil | 5 g | [O-][Si](=O)[O-].[Mg+2]
reactant | NaHSO3 | 3 mL | OS(=O)[O-].[Na+]
solvent | acetone | 90 mL | CC(=O)C | C3H6O
solvent | H2O | 13 mL | O | H2O
catalyst | OsO4 | 0.02 mmol, 0.2 mL | O=[Os](=O)(=O)=O
product | 5-Iodo-1,2,3,4-tetrahydro-1,4-methano-naphthalene-2,3-diol | 13.73 g | IC1=C2C3C(C(C(C2=CC=C1)C3)O)O | C11H11IO2
